US06706703B2
1,4-Bis(5-phenyl-2-pyridyl)hexahydro-1,4-diazepine
Under nitrogen, to a solution of the 1,4-bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine (200 mg, 0.585 mmol) synthesized in Reference Example 1 in ethanol-toluene (2.0 mL-2.0 mL) were added phenylboronic acid (130.0 mg, 1.07 mmol), tetrakis(triphenylphosphine)palladium (56.0 mg, 0.050 mmol) and a 2.0 M aqueous potassium carbonate (0.5 mL, 1.0 mmol), and the resulting mixture was stirred at 80° C. for 3 hours. After cooling, the organic layer was collected and the aqueous layer was extracted with chloroform. The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield crude crystals. The crude crystals were recrystallized from chloroform-hexane to yield the title compound as slightly yellow needles (melting point: 221.0-222.0° C.) (61.0 mg, yield: 31%).

reactant | 1,4-bis(5-bromo-2-pyridyl)hexahydro-1,4-diazepine | 0.585 mmol, 200 mg | BrC=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)Br | C15H16Br2N4
reactant | phenylboronic acid | 1.07 mmol, 130.0 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 1.0 mmol, 2.0 M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.050 mmol, 56.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,4-Bis(5-phenyl-2-pyridyl)hexahydro-1,4-diazepine | C1(=CC=CC=C1)C=1C=CC(=NC1)N1CCN(CCC1)C1=NC=C(C=C1)C1=CC=CC=C1 | C27H26N4
